US07442692B2
Step A: Benzyl (1RS)-1-[(tert-butyloxycarbonyl)amino]-1-indancarboxylate.
To 0.140 mol of 1-[(tert-butyloxycarbonyl)amino]-1-indancarboxylic acid there are added 750 ml of dimethylformamide and then 0.147 mol of caesium carbonate. Stirring is then carried out for 2 hours 30 minutes at ambient temperature and there is then poured in, dropwise, over ½ hour, 0.145 mol of benzyl bromide dissolved in 150 ml of dimethyl-formamide, and stirring is carried out for 20 hours at ambient temperature.

reactant | 1-[(tert-butyloxycarbonyl)amino]-1-indancarboxylic acid | 0.140 mol | C(C)(C)(C)OC(=O)NC1(CCC2=CC=CC=C12)C(=O)O | C15H19NO4
reactant | caesium carbonate | 0.147 mol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 0.145 mol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl-formamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | Benzyl (1RS)-1-[(tert-butyloxycarbonyl)amino]-1-indancarboxylate | C(C)(C)(C)OC(=O)NC1(CCC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C22H25NO4
